US05160662
To 34.0 g of p-iodo-phenol dissolved in 350 ml of DMSO, were added 7.4 g of sodium hydroxide dissolved in 50 ml of water and stirred to obtain a homogeneous solution. Then, 32.4 g of n-decyl bromide were added and stirred at room temperature for 3 days. The resulting solution was introduced into 1 l of iced water, and extracted three times with hexane. The hexane phase was washed with water, followed by distilling off the hexane to obtain 46.6 g of oily p-n-decyloxy-iodobenzene.

reactant | p-iodo-phenol | 34.0 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | sodium hydroxide | 7.4 g | [OH-].[Na+]
reactant | n-decyl bromide | 32.4 g | C(CCCCCCCCC)Br | C10H21Br
solvent | DMSO | 350 ml | CS(=O)C | C2H6OS
solvent | water | 50 ml | O | H2O
solvent | water | 1 l | O | H2O
product | p-n-decyloxy-iodobenzene | 46.6 g | C(CCCCCCCCC)OC1=CC=C(C=C1)I | C16H25IO
